US07521447B2
Step C: (S)-2-{[5-(2,4-Difluorophenoxy)-1-isobutyl-1H-indazole-6-carbonyl]-amino}-4-piperidin-1-yl-butyric acid methyl ester:
To a solution of 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole-6-carboxylic acid (0.050 g, 0.14 mmol), (S)-2-amino-4-piperidin-1-yl-butyric acid methyl ester dihydrochloride (0.043 g, 0.16 mmol), EDCI (0.033 g, 0.17 mmol) and HOBt (0.023 g, 0.17 mmol) in dichloromethane was added dropwise DIEA (0.093 g, 0.72 mmol). The reaction mixture was stirred at room temperature until HPLC analysis showed consumption of the starting material and then was diluted with dichloromethane and washed with saturated NaHCO3. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was chromatographed to afford 0.051 g of product (67% yield).

reactant | 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole-6-carboxylic acid | 0.14 mmol, 0.050 g | FC1=C(OC=2C=C3C=NN(C3=CC2C(=O)O)CC(C)C)C=CC(=C1)F | C18H16F2N2O3
reactant | (S)-2-amino-4-piperidin-1-yl-butyric acid methyl ester dihydrochloride | 0.16 mmol, 0.043 g | Cl.Cl.COC([C@H](CCN1CCCCC1)N)=O
reactant | EDCI | 0.17 mmol, 0.033 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.17 mmol, 0.023 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.72 mmol, 0.093 g | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-2-{[5-(2,4-Difluorophenoxy)-1-isobutyl-1H-indazole-6-carbonyl]-amino}-4-piperidin-1-yl-butyric acid methyl ester | 0.051 g, 67% yield | COC([C@H](CCN1CCCCC1)NC(=O)C1=C(C=C2C=NN(C2=C1)CC(C)C)OC1=C(C=C(C=C1)F)F)=O | C28H34F2N4O4
